US04526719
To a solution of p-nitrophenyl 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoate (237 mg, 0.5 mmol) and L-methionine (149 mg, 1 mmol) in N,N-dimethylformamide (1 ml) was added triethylamine (0.21 ml, 1.5 mmol). The mixture was stirred at room temperature for 16 hours. After removal of the solvent, the residue was dissolved in ethyl acetate (10 ml) and the solution was washed with 1 N hydrochloric acid (5 ml×3) and saturated aqueous sodium chloride (5 ml×3) in that order and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was chromatographed on a column of silica gel (7 g). Elution was carried out with chloroform-methanol (4:1, v/v) and with chloroform-methanol-acetic acid (32:8:1, v/v) in the order mentioned. The fractions containing the desired compound were combined and the solvent was distilled off under reduced pressure to give 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-L-methionine (150 mg), melting at 83°-85° C.

reactant | p-nitrophenyl 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoate | 0.5 mmol, 237 mg | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H31NO8
reactant | L-methionine | 1 mmol, 149 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 10-(2,3-dimethoxy-5-methyl-1,4-benzoquinon-6-yl)decanoyl-L-methionine | 150 mg | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCC(=O)N[C@@H](CCSC)C(=O)O)=O | C24H37NO7S
